US08076482B2
Preparation of intermediate E/Z-6-chloro-3-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
At room temperature, to a solution of E/Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid methyl ester (73 g, 0.18 mol) in dichloromethane (700 mL) was added di-tert-butyl-dicarbonate (40 g, 0.18 mol), followed by the addition of 4-dimethylaminopyridine (4 g, 0.036 mol). The reaction mixture was stirred at room temperature for 1 h. Then the mixture was concentrated and the residue was purified by chromatography to give the title compound as an orange solid (86 g).

reactant | Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid methyl ester | 0.18 mol, 73 g | COC(C(C)(C)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C20H17Cl2NO4
reactant | di-tert-butyl-dicarbonate | 0.18 mol, 40 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.036 mol, 4 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-chloro-3-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 86 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OC)=O | C25H25Cl2NO6
